US05834402
4. Methyl 2-chloro-3-(oxazol-5-yl)-4-methylsulfonylbenzoate
25 g (0.09 mol) of methyl 2-chloro-3-formyl-4-methylsulfonylbenzoate (Ex. A.1.), 17.6 g (0.09 mol) of tosylmethylene isocyanide and 6.2 g (0.045 mol) of finely pulverulent potassium carbonate are stirred together with 450 ml of methanol at reflux temperature for 5 hours. The solvent was subsequently stripped off, the residue was taken up in ethyl acetate, and the mixture was extracted with water. The ethyl acetate phase was dried using sodium sulfate and concentrated.

reactant | methyl 2-chloro-3-formyl-4-methylsulfonylbenzoate | 0.09 mol, 25 g | ClC1=C(C(=O)OC)C=CC(=C1C=O)S(=O)(=O)C | C10H9ClO5S
reactant | tosylmethylene isocyanide | 0.09 mol, 17.6 g | S(=O)(=O)(C1=CC=C(C)C=C1)C([N+]#[C-])[N+]#[C-] | C10H8N2O2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 450 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 2-chloro-3-(oxazol-5-yl)-4-methylsulfonylbenzoate | ClC1=C(C(=O)OC)C=CC(=C1C1=CN=CO1)S(=O)(=O)C | C12H10ClNO5S
